US04698329
Meanwhile, 5 ml of 6N hydrogen chloride/dioxane were added to 152 mg (0.5 mmole) of ethyl 4(S)-t-butoxycarbonylamino-3(S)-hydroxy-6-methylheptanoate. The solution was stirred for 20 minutes under a nitrogen stream, and then concentrated by evaporation under reduced pressure, to give a solid residue. The resulting residue was dissolved in 2 ml of dimethylformamide, and 0.05 g of N-methylmorpholine was added to give a solution of ethyl 4(S)-amino-3(S)-hydroxy-6-methylheptanoate.

reactant | hydrogen chloride dioxane | 6N, 5 ml | Cl.O1CCOCC1
reactant | ethyl 4(S)-t-butoxycarbonylamino-3(S)-hydroxy-6-methylheptanoate | 0.5 mmole, 152 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](CC(=O)OCC)O)CC(C)C | C15H29NO5
reactant | N-methylmorpholine | 0.05 g | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl 4(S)-amino-3(S)-hydroxy-6-methylheptanoate | N[C@H]([C@H](CC(=O)OCC)O)CC(C)C | C10H21NO3
